US04382143
A solution of 11.8 g. of 4-(hexadecylamino)-2-thiophenecarboxylic acid, 1.00 g. of 2-ethoxyethanol and 5.35 ml. of boron trifluoride etherate in 200 ml. of toluene is stirred under reflux for 48 hours. The solution is treated with an additional 5.35 ml. of boron trifluoride etherate and refluxing is continued for 120 hours. Dilution with water and methylene chloride followed by filtration affords 2-ethoxyethyl 4-(hexadecylamino)-2-thiophenecarboxylate as a white solid.

reactant | 4-(hexadecylamino)-2-thiophenecarboxylic acid | C(CCCCCCCCCCCCCCC)NC=1C=C(SC1)C(=O)O | C21H37NO2S
reactant | 2-ethoxyethanol | C(C)OCCO | C4H10O2
reactant | boron trifluoride etherate | B(F)(F)F.CCOCC
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-ethoxyethyl 4-(hexadecylamino)-2-thiophenecarboxylate | C(CCCCCCCCCCCCCCC)NC=1C=C(SC1)C(=O)OCCOCC | C25H45NO3S
